US04045568
Chloroacetone (9.25 g.) in dry acetonitrile was added dropwise with stirring and ice cooling to a slurry of imidazole (13.6 g.) in acetonitrile (100 ml.). The mixture was stirred for 4 hours with ice cooling and then for 24 hours at room temperature. The solvent was removed and the product isolated by chromatography on silica gel, eluting with 10% methanol/dichloromethane. This material in 100 ml. of methanol was treated with excess sodium borohydride at 0° C. for 1 hours and acidified with methanolic hydrogen chloride. The solvent was removed, ethyl acetate added and the stirred mixture treated dropwise with saturated potassium carbonate solution until basic. The ethyl acetate was then decanted, dried, evaporated and the residue chromatographed on silica gel eluting with 10% methanol/dichloromethane to give pure 1-(2-hydroxypropyl)imidazole.

reactant | Chloroacetone | 9.25 g | ClCC(C)=O | C3H5ClO
reactant | imidazole | 13.6 g | N1C=NC=C1 | C3H4N2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-(2-hydroxypropyl)imidazole | OC(CN1C=NC=C1)C | C6H10N2O
